US09029381B2
trans-(4-Cyclobutyl-1,4-diazepan-1-yl)-(2-phenylcyclopropyl)methanone
This example was prepared according to Example 4 utilizing trans-2-phenyl-1-cyclopropanecarbonyl chloride and 1-N-cyclobutyl-1,4-diazepane dihydrochloride, which was prepared according to Zaragoza, et. al. J. Med. Chem. 2004, 47, 2833-2838. m/z (ES+) M+1=299.2; HPLC tR=1.62 min. 1H NMR (500 MHz, CDCl3) δ 7.26 (t, J=7.6 Hz, 2H), 7.20-7.15 (m, 1H), 7.13-7.08 (m, 2H), 3.73-3.59 (m, 4H), 2.92-2.83 (m, 1H), 2.54-2.36 (m, 5H), 2.08-1.98 (m, 2H), 1.97-1.90 (m, 1H), 1.89-1.74 (m, 4H), 1.66 (ddd, J=9.2, 5.3, 4.1 Hz, 2H), 1.63-1.55 (m, 1H), 1.25 (m, 1H).

reactant | trans-2-phenyl-1-cyclopropanecarbonyl chloride | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
reactant | 1-N-cyclobutyl-1,4-diazepane dihydrochloride | Cl.Cl.C1(CCC1)N1CCNCCC1
product | trans-(4-Cyclobutyl-1,4-diazepan-1-yl)-(2-phenylcyclopropyl)methanone | C1(CCC1)N1CCN(CCC1)C(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1 | C19H26N2O
